US07790290B2
10-1. Synthesis of Mono(2-butoxyethyl)phthalic Acid
148.1 of anhydrous phthalic acid and the molar equivalent 118.2 n of 2-butoxyethanol were added to a 500 ml glass round-bottomed flask equipped with stirring blades, thermometer and Dimroth condenser, heated while slowly stirring, and after the generated heat at about 90° C. wore off, raised to a temperature of 130° C., which was maintained for 1 hour. The mixture was subsequently cooled to 60° C. The acid value (number of mg of KOH necessary to neutralize 1 g of a sample) of the reaction solution was 226.0. Since the acid value for the case where the reaction is 100% complete is 210.7, the reaction rate was computed to be 93%.

reactant | phthalic acid | C(C=1C(C(=O)O)=CC=CC1)(=O)O | C8H6O4
reactant | 2-butoxyethanol | C(CCC)OCCO | C6H14O2
reactant | KOH | [OH-].[K+]
product | Mono(2-butoxyethyl)phthalic Acid | C(CCC)OCCC1=C(C(C(=O)O)=CC=C1)C(=O)O | C14H18O5
